US04154802
According to the invention a method of recovering magnesia from magnesium carbonate containing raw material includes the steps of forming a slurry of uncalcined raw material, heating the slurry to a temperature between 40° and 90° C., treating the slurry with sulphur dioxide to form soluble magnesium bisulphite, separating undissolved impurities from the solution of magnesium bisulphite, precipitating magnesium sulphite from the solution, separating the precipitate from the mother liquor and recovering magnesia from the separated precipitate.

reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
reactant | sulphur dioxide | S(=O)=O | O2S
product | magnesium bisulphite | S([O-])(O)=O.[Mg+2].S([O-])(O)=O | InChI=1S/Mg.2H2O3S/c;2*1-4(2)3/h;2*(H2,1,2,3)/q+2;;/p-2
